US05925630
A solution of 21-bromo-3α-hydroxy-3β-methyl-5α-pregnan-20-one (250 mg, 0.61 mmol), 4-nitrophenol (127 mg, 0.912 mmol), triethylamine (127 μL,0.912 mmol), and a small amount of sodium iodide in 2:1 acetonitrile DMF was stirred with heating to ~60° C. for 6 hours. The mixture was partitioned between EtOAc and 1:1 water:sat. aq. sodium bicarbonate. The organic layer was washed with 2N HCl, water and sat. aq. NaCl, dried with Na2SO4 and concentrated in vacuo. The crude residue was subjected to flash column chromatography. Elution with 20% acetone in hexane yielded 3α-hydroxy-3β-methyl-21-(4'-nitrophenoxy)-5α-pregnan-20-one (147 mg) as a solid; mp 169-172° C.; TLC Rf (hexane:acetone 4:1)=0.35.

reactant | 21-bromo-3α-hydroxy-3β-methyl-5α-pregnan-20-one | 0.61 mmol, 250 mg | BrCC([C@H]1CC[C@H]2[C@@H]3CC[C@H]4C[C@](CC[C@]4(C)[C@H]3CC[C@]12C)(C)O)=O | C22H35BrO2
reactant | 4-nitrophenol | 0.912 mmol, 127 mg | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | triethylamine | 0.912 mmol, 127 μL | C(C)N(CC)CC | C6H15N
reactant | sodium iodide | [I-].[Na+]
solvent | acetonitrile DMF | C(C)#N.CN(C)C=O
product | 3α-hydroxy-3β-methyl-21-(4'-nitrophenoxy)-5α-pregnan-20-one | 147 mg | O[C@]1(C[C@@H]2CC[C@H]3[C@@H]4CC[C@H](C(COC5=CC=C(C=C5)[N+](=O)[O-])=O)[C@]4(CC[C@@H]3[C@]2(CC1)C)C)C | C28H39NO5
